US07544683B2
trans-{4-[4-(5-tert-Butyl-[1,3,4]oxadiazol-2-yl)-phenoxy]-cyclohexyl}-(4-isopropyl-piperazin-1-yl)-methanone
A mixture of 60 mg (0.15 mmol) of trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid hydrazide, 0.02 ml (0.2 mmol) of pivalic acid and 2 ml of phosphorus oxychloride was refluxed for 2 hr. To the mixture, 1N NaOH solution was added. The mixture was extracted with AcOEt, washed with saturated NaHCO3 solution, dried over Na2SO4, and evaporated. The residue was purified by column chromatography on silica eluting with dichloromethane and methanol=from 98:2 to 19:1. The combined product fractions were evaporated to dryness to yield 25 mg (36%) of the title compound. MS (m/e): 455.4 (MH+).

reactant | trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid hydrazide | 0.15 mmol, 60 mg | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C(=O)NN)C=C1 | C21H32N4O3
reactant | pivalic acid | 0.2 mmol, 0.02 ml | C(C(C)(C)C)(=O)O | C5H10O2
reactant | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 1N | [OH-].[Na+]
product | trans-{4-[4-(5-tert-Butyl-[1,3,4]oxadiazol-2-yl)-phenoxy]-cyclohexyl}-(4-isopropyl-piperazin-1-yl)-methanone | 25 mg, 36% | C(C)(C)(C)C1=NN=C(O1)C1=CC=C(O[C@@H]2CC[C@H](CC2)C(=O)N2CCN(CC2)C(C)C)C=C1 | C26H38N4O3
